US05063228
3,4-Dihydro-2-methyl-4-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)ethyl]pyrimido[1,6-A]benzimidazol-1(2H)-one ethyl acetate (1:1).
A mixture of 4.0 g (0.015 mol) of 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazole-1(2H)-one, 3.46 g (0.015 mol) of 1-phenyl-1,3,8-triazaspiro[4,5]-decan-4-one, 9 g of NaHCO3, 0.5 g of Kl, and 35 mL of DMF was heated on a steam cone for 24 h. The reaction mixture was poured into 500 mL of H2O and extracted with 3×100 mL of CH2Cl2. The combined organic extracts were washed with 2×100 mL of H2O, dried (NaSO4), filtered and concentrated by rotary evaporation. The residue was purified by preparative HPLC using acetone and the eluent and silica gel as the stationary phase. Like fractions were combined and concentrated by rotary evaporation to a glass which crystallized upon treatment with ethyl acetate to give 4.3 g (52%) of analytically pure material, mp 173°-75° C.

reactant | 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazole-1(2H)-one | 0.015 mol, 4.0 g | ClCCC1CN(C(N2C1=NC1=C2C=CC=C1)=O)C | C13H14ClN3O
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]-decan-4-one | 0.015 mol, 3.46 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | NaHCO3 | 9 g | C(=O)(O)[O-].[Na+]
reactant | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | H2O | 500 mL | O | H2O
product | 3,4-Dihydro-2-methyl-4-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)ethyl]pyrimido[1,6-A]benzimidazol-1(2H)-one ethyl acetate | C(C)OC(C)=O.CN1C(N2C(=NC3=C2C=CC=C3)C(C1)CCN1CCC3(C(NCN3C3=CC=CC=C3)=O)CC1)=O | InChI=1S/C26H30N6O2.C4H8O2/c1-29-17-19(23-28-21-9-5-6-10-22(21)32(23)25(29)34)11-14-30-15-12-26(13-16-30)24(33)27-18-31(26)20-7-3-2-4-8-20;1-3-6-4(2)5/h2-10,19H,11-18H2,1H3,(H,27,33);3H2,1-2H3
